US07547710B2
To a solution of ethyl 5-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}pentanoate (1.6 g, 2.9 mmol) in tetrahydrofuran (10 ml)-ethanol (10 ml) was added 2N aqueous sodium hydroxide solution (3 ml), and the mixture was stirred at room temperature for 5 hrs. The reaction mixture was acidified with 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under-reduced pressure and the residue was crystallized from diisopropyl ether to give 5-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}pentanoic acid (1.3 g, yield 87%) as crystals.

reactant | ethyl 5-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}pentanoate | 2.9 mmol, 1.6 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCCCCC(=O)OCC)CC(C)C | C33H44N2O5
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}pentanoic acid | 1.3 g, yield 87% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCCCCC(=O)O)CC(C)C | C31H40N2O5
